US06342498B1
To a stirred mixture of 1-(2-methoxyphenyl)piperazine (21.34 mmol) and pyridine (25.6 mmol) in 60 mL of dry dichloromethane was added dropwise a solution of 6-bromohexanoyl chloride (23.52 mmol) in 20 mL of dichloromethane at 0° C. under nitrogen. After addition, the mixture was allowed to warm to room temperature and stirred for 1-2 hours. The mixture was quenched with 10% potassium carbonate in water, and extracted with dichloromethane. The organic phase was washed with brine and water, dried over magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography using 5% methanol, 0.5% ammonium hydroxide in ethyl acetate to give 1-(2-methoxyphenyl)-4-(6-bromohexanoyl)piperazine (6.00 g, 76%).

reactant | 1-(2-methoxyphenyl)piperazine | 21.34 mmol | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | pyridine | 25.6 mmol | N1=CC=CC=C1 | C5H5N
reactant | 6-bromohexanoyl chloride | 23.52 mmol | BrCCCCCC(=O)Cl | C6H10BrClO
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(2-methoxyphenyl)-4-(6-bromohexanoyl)piperazine | 6.00 g, 76% | COC1=C(C=CC=C1)N1CCN(CC1)C(CCCCCBr)=O | C17H25BrN2O2
